US07314877B2
5) Production of 2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one
2-Cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-4-hydroxymethyl-2H-pyridazin-3-one (540 mg, 1.81 mmol) was dissolved in methylene chloride (12 mL), and triethylamine (238 mg, 2.35 mmol) and methanesulfonyl chloride (249 mg, 2.17 mmol) were added to the solution under cooling with ice, followed by stirring for one hour. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the resultant mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate anhydrate. The solvent was removed under reduced pressure, and the residue was recrystallized from chloroform-hexane, to thereby yield 607 mg of the title compound as a pale yellow crystalline powder (89.1%).

reactant | 2-Cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-4-hydroxymethyl-2H-pyridazin-3-one | 1.81 mmol, 540 mg | C1(CC1)CN1N=C(C=C(C1=O)CO)C=1C=CC2=C(CCO2)C1 | C17H18N2O3
reactant | triethylamine | 2.35 mmol, 238 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.17 mmol, 249 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 12 mL | C(Cl)Cl | CH2Cl2
product | 2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)COS(=O)(=O)C)C=1C=CC2=C(CCO2)C1 | C18H20N2O5S
